US04024156
A solution of the halohydrin, α-bromomethyl-2-thiophenemethanol (10.0 g, 0.048 mole), described in Example 4, and p-toluenesulfonic acid (1.0 g) in 100 ml of the lower alkanol methanol, is heated at reflux for 5 hr. The mixture is concentrated and the concentrate extracted with ether. The ether extract is washed with water and brine, dried (MgSO4) and concentrated to yield a brown liquid which is purified by chromatography on silica gel to give α-(bromomethyl)-2-thiophenemethanol methyl ether; nmr (CDCI3) δ3.36 (s, 3H), 3.58 (m, 2H), 4.68 (t, J = 6.5, 1H), 7.02 (m, 1), 7.05 (m, 1H), 7.31 (m, 1H).

reactant | α-bromomethyl-2-thiophenemethanol | 0.048 mole, 10.0 g | BrCC(O)C=1SC=CC1 | C6H7BrOS
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | α-(bromomethyl)-2-thiophenemethanol methyl ether | COC(C=1SC=CC1)CBr | C7H9BrOS
